US08247576B2
20C. {2-(4-Chloro-phenyl)-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethyl}-dimethyl-amine
[2,2-Bis-(4-chloro phenyl)-ethyl]-dimethyl-amine was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following the procedure set out in Example 1 to give the title compound. LC/MS: (PS-B2) Rt 3.07 [M+H]+ 325.99. 1H NMR (Me-d3-OD) δ 2.5 (6H, s), 2.98 (2H, dd), 4.34 (1H, t), 7.31-7.36 (6H, m), 7.50 (2H, d), 7.92 (2H, s).

reactant | [2,2-Bis-(4-chloro phenyl)-ethyl]-dimethyl-amine | ClC1=CC=C(C=C1)C(CN(C)C)C1=CC=C(C=C1)Cl | C16H17Cl2N
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | {2-(4-Chloro-phenyl)-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethyl}-dimethyl-amine | ClC1=CC=C(C=C1)C(CN(C)C)C1=CC=C(C=C1)C=1C=NNC1 | C19H20ClN3
